Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Iodine / lobster
 
Attending: ___.
 
Chief Complaint:
hematuria
 
Major Surgical or Invasive Procedure:
Cystoscopy

 
History of Present Illness:
___ with a h/o DM2, CAD s/p stenting and CABG for 3 prior MIs, 
s/p repair of buried penis with phalloplasty and skin graft 
___, who p/w hematuria and anemia, transferred from ___.

On ___, his Foley was removed.  He saw his Urologist on 
___.  He isn't sure if the Foley was removed at Urology 
office, or somewhere else.  Had his first urination ~5pm, which 
was large volume BRB.  He describes as "bright med," "maroon".  
No dysuria.  No bleeding in stools.  Takes ASA 81 but no other 
anticoag. Notes some lightheadedness. No chest pain or dyspnea.  
Denies fever or chills.  No dysuria or increased frequency of 
urination.  No abdominal pain.
 
In the ED, initial vitals were:  
98.2, HR 50, BP 142/62, RR 18, 97% RA

Exam notable for: Yellow urine in Foley bag.
Labs showed:  Hgb 7.6 (6.9 ___, baseline ___, WBC 12.1 
(6% bands), Cr 2.9 (3.3 ___, BUN 59.

Received 1U blood (started at ___
  
Urology was consulted, recommending Foley, transfusion, medicine 
admission, no acute surgical intervention.
 
Past Medical History:
History of MI s/p CABG in ___ Diabetes, HTN, CKD with baseline 
sCr 2.0, OSA on CPAP, h/o melanoma 

Surgical History: Tonsillectomy. 

Discharge Summary Past Medical dated ___:
1. CAD: s/p PCI to LAD, last cath ___. Prior MI and History of 
VF arrest.
2. Type II Diabetes Mellitus: followed at ___, poor diet 
compliance per wife, last HgA1C 10.0 (___)
3. ___
4. Hyperlipidemia: in ___- Tchol 213, ___ 345, HDL 36, LDL 122
5. CKD: baseline creatinine 1.3-1.7
6. OSA: on CPAP (unknown settings- ___ or ___ per ___ sleep 
study) at home
7. Obesity
8. GERD
9. Melanoma (s/p excision x5)
10. Neuropathy
11. Depression
 
Social History:
___
Family History:
Unknown, the patient was adopted. 
 
Physical Exam:
Admission Physical Exam:
========================
Vital Signs:  97.6, 170/72, HR 52, RR 18  
General: Alert, NAD, pleasant
HEENT: EOMI, OP clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: Foley in place draining yellow urine.  Some red crusting 
blood in groin area.  
Ext: Warm, well perfused, no edema  
Neuro: CNII-XII intact grossly
.
Discharge Physical Exam:
======================== 
Vital Signs: 97.6 154/65 63 95% RA  
General: Alert, NAD, pleasant, laying in bed in NAD.  
HEENT: EOMI, OP clear  
CV: RRR, normal S1 and S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally.  
Abdomen: soft, non-tender, non-distended, no rebound or 
guarding.  
GU: Foley in place draining clear urine, scant amount of clotted 
blood around penis.  
Ext: no lower extremity edema.  
Neuro: CNII-XII intact grossly, able to sit up quickly in bed, 
moving all extremities with purpose  
 
Pertinent Results:
Admission Labs:
===============
___ 02:00AM BLOOD WBC-12.1* RBC-2.41* Hgb-7.6* Hct-24.0* 
MCV-100* MCH-31.5 MCHC-31.7* RDW-15.8* RDWSD-57.3* Plt ___
___ 02:00AM BLOOD Neuts-59 Bands-6* ___ Monos-3* 
Eos-0 Baso-0 Atyps-1* Metas-1* Myelos-2* AbsNeut-7.87* 
AbsLymp-3.51 AbsMono-0.36 AbsEos-0.00* AbsBaso-0.00*
___ 09:35AM BLOOD Neuts-73* Bands-2 Lymphs-14* Monos-6 
Eos-2 Baso-0 Atyps-1* Metas-1* Myelos-1* AbsNeut-7.13* 
AbsLymp-1.43 AbsMono-0.57 AbsEos-0.19 AbsBaso-0.00*
___ 02:00AM BLOOD ___ PTT-20.6* ___
___ 02:00AM BLOOD Ret Aut-4.5* Abs Ret-0.11*
___ 02:00AM BLOOD Glucose-250* UreaN-59* Creat-2.9* Na-133 
K-5.2* Cl-99 HCO3-22 AnGap-17
___ 09:35AM BLOOD ALT-9 AST-14 LD(LDH)-183 CK(CPK)-61 
AlkPhos-48 TotBili-0.4
___ 09:35AM BLOOD Albumin-3.4* Calcium-9.2 Phos-4.3 Mg-2.3 
Iron-120
___ 09:35AM BLOOD calTIBC-220* ___ Ferritn-388 
TRF-169*

Discharge Labs:
===============

 
Brief Hospital Course:
___ with a h/o DM2, CAD s/p stenting and CABG for 3 prior MIs, 
s/p repair of buried penis with phalloplasty and skin graft 
___, who presented with hematuria, anemia, and ___ on CKD 
after foley was removed s/p the procedure
 
# Acute blood loss anemia
# Hematuria: developed hematuria soon after Foley removal. 
Urology followed patient, and bleeding from inside urethra 
thought to be from traumatic foley removal. Did not appear to be 
a bladder or renal/urethral source since he was noted to be 
bleeding from around catheter rather than within and in the 
hospital had clear urine, and normal renal/bladder ultrasound. 
Graft was evaluated by plastics and appeared to be healing well. 
He required 3 units of PRBCs throughout hospitalization after 
presenting with Hgb of 6.9 at OSH (baseline 10). His discharge 
Hgb was 8.1. He continued to bleed intermittently throughout 
admission, especially after moving/walking. He remained 
hemodynamically stable.

# Hyperkalemia: Patient had intermittent hyperkalemia during 
admission with a high of 6.4, more recently 5.2-5.3. Unclear 
etiology, but possibly ___ hemolyzed blood products or poor 
kidney function or both. Restarted diuretic on ___, changed to 
bumex given sulfa allergy. EKG x 2 has been reassuring.  
 - continue to trend  
 - continue bumex  

# ___ on CKD: Cr 2.9 on admission, 2.3 at discharge, from 
baseline in 1.7-2.2 range.  Likely developed prerenal ___ in 
setting of blood loss. Transfused as above. Held home 
furosemide, lisinopril, atenolol initially, and restarted 
atenolol at lower dose, and bumex instead of lisinopril (see 
transitional issues below)
 
# Leukocytosis
# Bandemia and atypical WBCs on Diff:  He had no infectious 
symptoms. CXR was negative for infection. Urine culture and 
blood cultures were obtained and were negative. Ongoing 
intermittent mild elevation.
 
# CAD/HTN/HLD: no active symptoms or new EKG changes. Held home 
ASA given bleeding, continued home rosuvatstain

Transitional Issues:
====================
- ___ should remain in place until it can be evaluated by 
urology. Patient to have appointment with them in ___ days.
- Urology expects lesion to bleed in coming days. Ok if there is 
moderate blood soaking through pads. Check H/H and if drop of 2 
points in hemoglobin or < 7, patient will need transfusion.
- Ok to wash area of skin graft daily with saline-soaked gauze 
lightly once daily, and place bacitracin on it after 
- CHANGED: Atenolol was initially held in the setting of 
bradycardia to ___, then restarted at lower dose (12.5mg). 
Consider changing given it is renally cleared. 
- STOPPED Lasix 80mg PO daily given it may be too high a dose, 
and given the sulfa moiety on it, and patient's sulfa allergy
- STARTED Bumex at 1mg (equivalent to 40mg Lasix)
- please check daily weights, and consider titrating bumex to 
2mg if necessary
- HELD lisinopril in setting of kidney injury. Consider 
restarting as outpatient
- Please check CBC, Chem 7 on ___ 
- HELD aspirin with active bleeding. Consider starting in the 
next ___ days.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 50 mg PO DAILY 
2. Furosemide 80 mg PO DAILY 
3. LamoTRIgine 150 mg PO BID 
4. Lisinopril 40 mg PO DAILY 
5. Acetaminophen 650 mg PO Q8H:PRN fever, pain 
6. insulin glargine 24 units subcutaneous QPM 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Rosuvastatin Calcium 40 mg PO DAILY 
9. amLODIPine 10 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Bumetanide 1 mg PO DAILY  
2.  amLODIPine 10 mg PO DAILY  
3.  Atenolol 12.5 mg PO DAILY  
4.  Acetaminophen 650 mg PO Q8H:PRN fever, pain  
5.  insulin glargine 24 units subcutaneous QPM  
6.  LamoTRIgine 150 mg PO BID  
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  Rosuvastatin Calcium 40 mg PO DAILY  
9. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until evaluated by MD. ___ be re-started 
when no longer significant bleeding
10. HELD- Lisinopril 40 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you are evaluated by your MD. 
___ held for kidney injury.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Urethral bleeding
Acute on chronic kidney injury

Secondary:
Type 2 DM on insulin
CKD
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure taking part in your care at the hospital. 
You were admitted because you were having bleeding from your 
penis. We think that a tear occurred in the urethra when your 
catheter accidentally came out at rehab. You continued to have 
bleeding at the hospital, especially with movement, and the 
urology team removed your catheter and cystoscopy was performed. 
Bleeding was seen near the end of the urethra, and a larger 
catheter was placed that helped slow down the bleeding. You had 
clear urine over most of the admission, including the last few 
days of the admission. You required transfusions. 

Additionally, you had findings of increased potassium in your 
blood and injury to your kidney. These both improved by the time 
of your discharge.

WHAT YOU SHOULD DO AFTER LEAVING THE HOSPITAL:
1. Work on building up your strength at rehab
2. Keep your catheter in until you are evaluated by the 
urologists in their clinic
3. Continue the decreased dose of atenelol. Discuss with your 
primary care doctor whether to increase it
4. Do not take aspirin or lisinopril until your doctor tells you 
to

___, it has been a pleasure taking part in your care, and we 
wish you the best.
- Your ___ care team
 
Followup Instructions:
___